* source ENG471 - ASSIGNMENT 1
M_M1         N00233 N00245 N00237 N00237 Mbreakn           
R_RD         N00233 N00339  7k TC=0,0 
R_RS         N00565 N00237  10k TC=0,0 
R_R3         0 N00245  145.5k TC=0,0 
R_R1         N00299 N00339  179.5k TC=0,0 
R_Ri         N00264 VIN  2k TC=0,0 
R_RL         0 VOUT  10k TC=0,0 
C_CC2         N00233 VOUT  10u  TC=0,0 
C_CG         0 N00299  100n  TC=0,0 
C_CC1         N00245 N00264  100n  TC=0,0 
C_CS         N00237 0  10u  TC=0,0 
R_R2         N00245 N00299  175k TC=0,0 
V_Vin         VIN 0 DC 0Vdc AC 1Vac 
V_V2         N00565 0 -10Vdc
V_V3         N00339 0 10Vdc
