* source LAB_3
Q_Q1         N00263 N00267 N00259 Q2N2222
Q_Q2         N00251 N00263 N00255 Q2N2222
C_CE         0 N00259  100n  TC=0,0 
C_CC         N00267 N00387  100n  TC=0,0 
C_CF         N00255 N00479  100n  TC=0,0 
R_RF         N00267 N00479  1.2k TC=0,0 
R_RE2         0 N00255  8.1k TC=0,0 
R_RE1         0 N00259  1k TC=0,0 
R_R2         0 N00267  13.5k TC=0,0 
R_R1         N00267 N00423  38.3k TC=0,0 
R_RC1         N00263 N00423  3k TC=0,0 
R_RC2         N00251 N00423  4k TC=0,0 
R_RS         IN N00387  0.6k TC=0,0 
V_V2         N00423 0 10Vdc
V_V3         IN 0 DC 0Vdc AC 1Vac 
